US06670362B2
2-(4-Fluorophenyl)ethanesulfonamide
A mixture of 2-(4-flourophenyl)ethanesulfonyl chloride (0.7 g, 3.3 mmol) and concentrated aqueous ammonia (0.88 specific gravity, 10 ml) in ethanol (5 ml) was stirred at room temperature overnight. The reaction mixture was diluted with water (10 ml), acidified to pH 4 with citric acid (1.0 M) and then extracted with dichloromethane. The organic extracts were dried by filtering through an organic-only, permeable membrane and then concentrated under vacuum. The residue was purified by chromatography on a Biotage® Flash 40 (s) column (40 g silica) using 10-20% ethyl acetate/dichloromethane as eluant to give the title compound as an off white solid, (0.66 g).

reactant | 2-(4-flourophenyl)ethanesulfonyl chloride | 3.3 mmol, 0.7 g | FC1=CC=C(C=C1)CCS(=O)(=O)Cl | C8H8ClFO2S
reactant | ammonia | 10 ml | N | H3N
reactant | citric acid | 1.0 M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-(4-Fluorophenyl)ethanesulfonamide | FC1=CC=C(C=C1)CCS(=O)(=O)N | C8H10FNO2S
